US08476280B2
Tetrahydrofuran (70 mL) and 3 N HCl (50 mL) were added to the above crude 4-([3-(tert-butyldimethylsilanyloxy)phenyl]{3-[N-(3-fluorophenyl)-N-methylcarbamoyl]phenyl}-methylene)piperidine-1-carboxylic acid tert-butyl ester (2.75 g). The resulting mixture was stirred at 60° C. for 4 h. The reaction mixture was cooled to room temperature, followed by the addition of water (100 mL). The resulting solution was extracted with diethyl ether (100 mL×2). The remaining water layer was neutralized to pH≅9. by 10% NaOH. The water layer became cloudy at this stage. The cloudy water mixture was extracted by n-butanol (100 mL×3). The combined n-butanol layers were washed by water (75 mL×2) and brine (75 mL×1), dried by Na2SO4 and concentrated to give crude product (2.27 g; crude), which was purified to give N-(3-fluorophenyl)-3-[(3-hydroxyphenyl)-piperidin-4-ylidene-methyl]-N-methyl-benzamide (579 mg). 1H NMR (600 MHz, DMSO-d6) δ 9.25 (s, 1H), 7.23 (m, 3H), 7.09 (d, 1H, J=10.0 Hz), 7.03 (dd, 1H, J=8.0, 8.0 Hz), 6.96 (ddd, 1H, J=8.5, 8.5, 2.5 Hz), 6.92 (m, 2H), 6.85 (s, 1H), 6.56 (dd, 1H, J=8.0, 2.0 Hz), 6.34 (s, 1H), 6.31 (d, 1H, J=7.5 Hz), 3.35 (s, 3H), 2.65 (m, 2H), 2.55 (m, 2H), 2.13 (bs, 1H), 2.07 (m, 2H), 1.72 (m, 2H); Found: C, 72.87; H, 6.51; N, 5.86. Calc. C, 72.77; H, 6.62; N, 5.98.

reactant | Tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
reactant | HCl | 3 N, 50 mL | Cl | ClH
reactant | 4-([3-(tert-butyldimethylsilanyloxy)phenyl]{3-[N-(3-fluorophenyl)-N-methylcarbamoyl]phenyl}-methylene)piperidine-1-carboxylic acid tert-butyl ester | 2.75 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C1=CC(=CC=C1)C(N(C)C1=CC(=CC=C1)F)=O)C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C | C37H47FN2O4Si
solvent | water | 100 mL | O | H2O
product | N-(3-fluorophenyl)-3-[(3-hydroxyphenyl)-piperidin-4-ylidene-methyl]-N-methyl-benzamide | 579 mg | FC=1C=C(C=CC1)N(C(C1=CC(=CC=C1)C(=C1CCNCC1)C1=CC(=CC=C1)O)=O)C | C26H25FN2O2
